US07915304B2
Step B: (3-methylphenyl)-furan-2,5-dione
A suspension of potassium 3-cyano-3-(3-methylphenyl)-acrylate (0.69 g, 3 mmol), in 88% formic acid (14 ml) containing concentrated sulphuric acid (2 ml) was stirred at reflux and monitored by LC-MS until the starting material was consumed. The reaction mixture was cooled to room temperature and poured into ice/water. The resulting precipitate was recovered by filtration, washed with water (15 ml), heptane (15 ml) and air dried.

reactant | potassium 3-cyano-3-(3-methylphenyl)-acrylate | 3 mmol, 0.69 g | C(#N)C(=CC(=O)[O-])C1=CC(=CC=C1)C.[K+]
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | formic acid | 14 ml | C(=O)O | CH2O2
product | (3-methylphenyl)-furan-2,5-dione | CC=1C=C(C=CC1)C=1C(OC(C1)=O)=O | C11H8O3
